US08314253B2
1.10 rac-(1R*,8R*,9R*)-9-(2-{[3-(1H-Benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol
A mixture of 1000 mg of rac-toluene-4-sulfonic acid (1R*,8R*,9R*)-2-(9-hydroxy-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-yl)ethyl ester and 508 mg of [3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amine in 2 mL of DIPEA was heated to 110° C. for 30 min. The reaction mixture was cooled to rt, quenched with MeOH-water and extracted with EtOAc. The organic phase was separated, dried over Na2SO4 and concentrated in vacuo to obtain 1.0 g as beige solid. A part of the crude product was purified by CC with EtOAc/MeOH (2:1) to obtain the desired compound as beige foam.

reactant | rac-toluene-4-sulfonic acid (1R*,8R*,9R*)-2-(9-hydroxy-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-yl)ethyl ester | 1000 mg | O[C@@]1([C@H]2C3=CC=CC=C3[C@@H](C1)CC2)CCOS(=O)(=O)C2=CC=C(C=C2)C | C21H24O4S
reactant | [3-(1H-benzoimidazol-2-yl)-propyl]-methyl-amine | 508 mg | N1C(=NC2=C1C=CC=C2)CCCNC | C11H15N3
solvent | DIPEA | 2 mL | CCN(C(C)C)C(C)C | C8H19N
product | rac-(1R*,8R*,9R*)-9-(2-{[3-(1H-Benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol | N1C(=NC2=C1C=CC=C2)CCCN(CCC2(C1C3=CC=CC=C3C(C2)CC1)O)C | C25H31N3O
